* SPDX-License-Identifier: Apache-2.0
* Direct-END bridge with a modestly stronger START pull-down.  This candidate
* is bounded between the original direct bridge and the physically weak
* MP=3/MN=4 skewed bridge; it targets extracted CLKB-low and exit-skew loss.

.subckt ecb_inv A Y VDD VSS params: WP=8u WN=4u MP=1 MN=1
XP Y A VDD VDD pfet_03v3 w={WP} l=0.28u m={MP}
XN Y A VSS VSS nfet_03v3 w={WN} l=0.28u m={MN}
.ends ecb_inv

.subckt event_capture_phase START END CLK CLKB VDD VSS
XCB0 START STARTB VDD VSS ecb_inv WP=5u WN=3u MP=4 MN=4
XCLKB STARTB CLKB VDD VSS ecb_inv WP=8u WN=10u MP=8 MN=8
XCLK END CLK VDD VSS ecb_inv WP=12u WN=5u MP=8 MN=8
.ends event_capture_phase

.subckt event_capture_bridge E_START E_END O_START O_END
+ E_CAPTURE_CLK E_CAPTURE_CLKB O_CAPTURE_CLK O_CAPTURE_CLKB VDD VSS
XE E_START E_END E_CAPTURE_CLK E_CAPTURE_CLKB VDD VSS event_capture_phase
XO O_START O_END O_CAPTURE_CLK O_CAPTURE_CLKB VDD VSS event_capture_phase
.ends event_capture_bridge
